US07384967B2
[3-Cyclopentanecarbonyl-4-(3-[1,3,4]thiadiazol-2-yl-ureido)-phenyl]-acetic acid ethyl ester
3-Cyclopentanecarbonyl-4-(3-[1,3,4]thiadiazol-2-yl-ureido)-phenyl]-acetic acid ethyl ester (147 mg, 73%) was prepared from (4-amino-3-cyclopentanecarbonyl-phenyl)-acetic acid ethyl ester (138 mg, 0.5 mmol) and [1,3,4]thiadiazol-2-ylamine (60 mg, 0.6 mmol) following the general procedure D.

reactant | (4-amino-3-cyclopentanecarbonyl-phenyl)-acetic acid ethyl ester | 0.5 mmol, 138 mg | C(C)OC(CC1=CC(=C(C=C1)N)C(=O)C1CCCC1)=O | C16H21NO3
reactant | [1,3,4]thiadiazol-2-ylamine | 0.6 mmol, 60 mg | S1C(=NN=C1)N | C2H3N3S
reactant | acetic acid ethyl ester | 147 mg | C(C)OC(C)=O | C4H8O2
product | [3-Cyclopentanecarbonyl-4-(3-[1,3,4]thiadiazol-2-yl-ureido)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)NC(=O)NC=1SC=NN1)C(=O)C1CCCC1)=O | C19H22N4O4S
